US04448962
A mixture of 1-propyl-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid 0.95 g (3.3 millimole) and piperazine hexahydrate 10 g (50 millimole) was heated in a sealed tube at 125°-135° C. (inner temperature) for 22 hours. After cooling, the reaction mixture was evaporated under vacuum, and the residue was acidified with acetic acid and the insoluble matters were removed by filtration. The filtrate was neutralized with an aqueous solution of caustic soda, extracted with the use of CHCl3, washed with water, dried over anhydrous Na2SO4, and the solvent was evaporated off. The residue was dissolved in dilute hydrochloric acid, reprecipitated with the addition of ethanol. The precipitated crystals were collected by filtration, washed with ethanol and dried to obtain 0.2 g (16%) of 1-propyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride. Colorless powders.

reactant | 1-propyl-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 3.3 millimole, 0.95 g | C(CC)N1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C13H11ClFNO3
reactant | piperazine hexahydrate | 50 millimole, 10 g | O.O.O.O.O.O.N1CCNCC1
product | 1-propyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride | 0.2 g, 16% | Cl.C(CC)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | InChI=1S/C17H20FN3O3.ClH/c1-2-5-21-10-12(17(23)24)16(22)11-8-13(18)15(9-14(11)21)20-6-3-19-4-7-20;/h8-10,19H,2-7H2,1H3,(H,23,24);1H
